US04294960
p-Nitrobenzyl 7-[2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate (syn-isomer: 7.8 g.) was suspended in a mixture of ethanol (60 ml.) and water (60 ml.) 1N Aqueous solution of potassium hydroxide (45 ml.) was added dropwise to the stirred suspension under ice-cooling over 10 minutes and stirred at 5° C. for 15 minutes. The resultant solution was adjusted to pH 7.0 with conc. hydrochloric acid, washed with ethyl acetate and the concentrated under reduced pressure to half of its initial volume. The concentrated solution was adjusted to pH 5.0 and subjected to column chromatography on macroporous, non-ionic adsorption resin "Diaion HP-20" (Trade mark; manufactured by Mitsubishi Chemical Industries Ltd.; 80 ml.), and eluted with 5% aqueous solution of isopropyl alcohol. The fractions containing the object compound were collected and adjusted to pH 3.2 with 10% hydrochloric acid. The precipitating crystals were collected by filtration, and dried to give 7-[2-(2 -amino-4-thiazolyl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid (syn-isomer: 2.3 g.).

reactant | p-Nitrobenzyl 7-[2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate | 7.8 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOC | C20H18N6O7S2
reactant | potassium hydroxide | 45 ml | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | water | 1N, 60 ml | O | H2O
product | 7-[2-(2 -amino-4-thiazolyl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid | 2.3 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOC | C13H13N5O5S2
